### ISSUE TITLE
Unexpected `simp_ifs` behaviour

### ISSUE THREAD

**Issue by ayhon** [AeneasVerif/aeneas#516]
While using Aeneas I ran into the following situation where I expected `simp_ifs` to close the goal, yet it did nothing.

```lean
theorem extracted_3 (r i : Std.Usize) (dst : Std.Slice Bool)
  (i1 : Std.Usize) (i1_post : (↑i1 : ℕ) = (↑i : ℕ) + (↑r : ℕ)) (h : i1 < dst.len)
: (if h : i.val + r.val + dst.length - (i.val + r.val) ≤ Std.Usize.max then True else False)
:= by
  simp_ifs -- Does nothing.
  have: i.val + r.val + dst.length - (i.val + r.val) ≤ Std.Usize.max := by scalar_tac
  simp only [this, reduceDIte]
```

I'm still able to close the goal using `simp` with the explicit `if` condition discharged by `scalar_tac`.

Discussion on this issue has already happened [privately on Zulip](https://aeneas-verif.zulipchat.com/#narrow/channel/482637-Internship-Fernando/topic/Unexpected.20.60simp_ifs.60.20behaviour/with/516144995).
